US08791133B2
4-{(E)-2-[5-(3,4-Difluorophenyl)pyridin-2-yl]vinyl}-7,7-dimethyl-5-oxo-4,5,6,7,8,9-hexahydro-1H-pyrazolo[3,4-b]quinoline-3-cyclopropylmethylcarboxamide
The title compound is prepared according to procedure C from 125 mg of 4-[(E)-2-(5-bromopyridin-2-yl)vinyl]-7,7-dimethyl-5-oxo-4,5,6,7,8,9-hexahydro-1H-pyrazolo[3,4-b]quinoline-3-cyclopropylmethylcarboxamide, 60 mg of 3,4-difluorophenylboronic acid, 134 mg of K3PO4 and 37 mg of 1,1′-bis(diphenylphosphino)ferrocenepalladium dichloride.

reactant | 4-[(E)-2-(5-bromopyridin-2-yl)vinyl]-7,7-dimethyl-5-oxo-4,5,6,7,8,9-hexahydro-1H-pyrazolo[3,4-b]quinoline 3-cyclopropylmethylcarboxamide | 125 mg | BrC=1C=CC(=NC1)/C=C/C1C2=C(NC=3CC(CC(C13)=O)(C)C)NN=C2.C1CC1CC(=O)N
reactant | 3,4-difluorophenylboronic acid | 60 mg | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
reactant | K3PO4 | 134 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocenepalladium dichloride | 37 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-{(E)-2-[5-(3,4-Difluorophenyl)pyridin-2-yl]vinyl}-7,7-dimethyl-5-oxo-4,5,6,7,8,9-hexahydro-1H-pyrazolo[3,4-b]quinoline 3-cyclopropylmethylcarboxamide | FC=1C=C(C=CC1F)C=1C=CC(=NC1)/C=C/C1C2=C(NC=3CC(CC(C13)=O)(C)C)NN=C2.C1CC1CC(=O)N | InChI=1S/C25H22F2N4O.C5H9NO/c1-25(2)10-21-23(22(32)11-25)17(18-13-29-31-24(18)30-21)7-6-16-5-3-15(12-28-16)14-4-8-19(26)20(27)9-14;6-5(7)3-4-1-2-4/h3-9,12-13,17H,10-11H2,1-2H3,(H2,29,30,31);4H,1-3H2,(H2,6,7)/b7-6+;
